US05977178
(2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)-propionic acid (659 mg, 2.0 mmol) was dissolved in N,N-dimethylformamide (3 mL) and dichloromethane (3 mL). The solution was cooled to 0° C. 1-Hydroxy-7-azabenzotriazole (272 mg, 2.0 mmol) was added. After 10 min N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride (460 mg, 2.4 mmol) was added. The reaction mixture was stirred for 10 min. A solution of 3-((2R)-2-(methylamino)-3-phenylpropionylamino)propyl acetate (567 mg, 2.0 mmol) in dichloromethane (4 mL) was added. The solution was stirred for 16 hours, while the temperature rose to room temperature. The reaction mixture was diluted with ethyl acetate (150 mL). It was extracted with 10% sodium hydrogensulfate solution (150 mL). The aqueous phase was extracted with ethyl acetate (3×50 mL) and the organic phases were combined and dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (70 g) with ethyl acetate/heptane (2:1) to give 973 mg of 3-((2R)-2-(N-((2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)-propionyl)-N-methylamino)-3-phenylpropionylamino)propyl acetate.

reactant | (2R)-2-(N-(tert-Butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)-propionic acid | 2.0 mmol, 659 mg | C(C)(C)(C)OC(=O)N(C)[C@@H](C(=O)O)CC1=CC2=CC=CC=C2C=C1 | C19H23NO4
reactant | 1-Hydroxy-7-azabenzotriazole | 2.0 mmol, 272 mg | ON1N=NC2=C1N=CC=C2 | C5H4N4O
reactant | N-(3-dimethylaminopropyl)-N'-ethylcarbodiimide hydrochloride | 2.4 mmol, 460 mg | Cl.CN(CCCN=C=NCC)C
reactant | 3-((2R)-2-(methylamino)-3-phenylpropionylamino)propyl acetate | 2.0 mmol, 567 mg | C(C)(=O)OCCCNC([C@@H](CC1=CC=CC=C1)NC)=O | C15H22N2O3
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
product | 3-((2R)-2-(N-((2R)-2-(N-(tert-butoxycarbonyl)-N-methylamino)-3-(2-naphthyl)-propionyl)-N-methylamino)-3-phenylpropionylamino)propyl acetate | 973 mg | C(C)(=O)OCCCNC([C@@H](CC1=CC=CC=C1)N(C)C([C@@H](CC1=CC2=CC=CC=C2C=C1)N(C)C(=O)OC(C)(C)C)=O)=O | C34H43N3O6
